US07005431B2
a) 5,5-Dimethyl-2-(4-methyl-3-nitrophenyl)-[1,3,2]dioxaborinane
4-Bromo-2-nitrotoluene (2.20 g, 9.88 mmol) was reacted with bis(neopentyl glycolato)diboron (2.25 g, 9.96 mmol) by a similar procedure to that described in Example 2, step d, to give 0.52 g of the title compound as an off-white solid: 1H NMR (400 MHz, CDCl3) δ 1.03 (6H, s), 2.60 (3H, s), 3.78 (4H, s), 7.30 (1H, d, J 7.7), 7.87 (1H, dd, J 1.0, 7.6), 8.35 (1H, d, J 0.7).

reactant | 4-Bromo-2-nitrotoluene | 9.88 mmol, 2.20 g | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | bis(neopentyl glycolato)diboron | 9.96 mmol, 2.25 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
product | 5,5-Dimethyl-2-(4-methyl-3-nitrophenyl)-[1,3,2]dioxaborinane | 0.52 g | CC1(COB(OC1)C1=CC(=C(C=C1)C)[N+](=O)[O-])C | C12H16BNO4
